US04673686
N-(1-cyclohexylmethyl-3-pyrrolidinyl)-2-methoxy-4-amino-5-ethylsulphinyl benzamide
8.5 g of 2-methoxy-4-acetamino-5-ethylsulphinyl benzoic acid, 70 ml of acetone, 10 ml of water and 3 g of triethylamine are placed in a 250 ml flask fitted with an agitator, a thermometer and a dropping funnel. The solution is cooled to about 0° C., after which 4.2 g of isobutyl chloroformate is poured in drop by drop. It is agitated for 45 minutes at 0° C. then 6 g of 1-cyclohexylmethyl-3-amino-pyrrolidine is dripped in. It is reacted for 2 hours at room temperature, 50 ml of water is added and the acetone is evaporated under vacuum. 10 ml of soda and 50 ml of water are added to the aqueous residue and it is heated to reflux for 5 hours then cooled. The suspension is extracted twice with 50 ml of methylene chloride, and the organic phase is dried over magnesium sulphate and filtered. The filtrate is evaporated dry under vacuum, and the residue is dissolved in 70 ml of hot ethyl acetate. The product is re-crystallised by cooling and filtered. It is washed with a little ether and dried in an oven at 50° C.

reactant | 2-methoxy-4-acetamino-5-ethylsulphinyl benzoic acid | 8.5 g | COC1=C(C(=O)O)C=C(C(=C1)NC(=O)C)S(=O)CC | C12H15NO5S
reactant | acetone | 70 ml | CC(=O)C | C3H6O
reactant | isobutyl chloroformate | 4.2 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-cyclohexylmethyl-3-amino-pyrrolidine | 6 g | C1(CCCCC1)CN1CC(CC1)N | C11H22N2
solvent | water | 50 ml | O | H2O
solvent | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
solvent | water | 10 ml | O | H2O
product | N-(1-cyclohexylmethyl-3-pyrrolidinyl)-2-methoxy-4-amino-5-ethylsulphinyl benzamide | C1(CCCCC1)CN1CC(CC1)NC(C1=C(C=C(C(=C1)S(=O)CC)N)OC)=O | C21H33N3O3S
